US04018802
Step A-3. Preparation of 5-(4-fluorophenoxyl)-1-penten-4-ol
To a mixture of ether (50 ml.) and magnesium turnings (4.49 g., 0.185 mole) is added a small amount of allyl bromide (ca. 0.5 g.). The mixture is stirred until Grignard reagent is formed (reflux of ether is a good sign). A solution of allyl bromide (24.2 g., 0.20 mole) and 4-fluorophenoxyacetaldehyde (19.0 g., 0.123 mole) in ether (110 ml.) is then added at such a rate as to maintain the reflux of ether. The resulting mixture is heated at reflux for another hour, cooled in an ice bath, and treated with dilute sulfuric acid (1.6 M, 70 ml.). The organic phase is separated and the aqueous phase is extracted with ether three times. The combined extracts are washed with 5% sodium bicarbonate, dried over anhydrous magnesium sulfate and finally concentrated on a rotary evaporator. The oil residue is vacuum distilled at 73° C./0.03 mm. to afford the desired product (18.6 g., 0.095 mole, 77%). ir (neat) 2.90, 3.22, 3.40, 6.05, 6.20, 6.62, 8.00, 8.25, 10.87, 12.10, 13.14μ; pmr (CCl4) δ 2.32 (2H, t, J=6Hz), 2.54 (1H, m), 3.6-4.1 (3H, m), 4.8-5.05 (1H, m), 5.05-5.25 (1H, m), 5.4-6.3 (1H, m), 6.6-7.1 (4H, m).

reactant | magnesium | 0.185 mole, 4.49 g | [Mg] | Mg
reactant | allyl bromide | 0.20 mole, 24.2 g | C(C=C)Br | C3H5Br
reactant | 4-fluorophenoxyacetaldehyde | 0.123 mole, 19.0 g | FC1=CC=C(OCC=O)C=C1 | C8H7FO2
reactant | sulfuric acid | 1.6 M, 70 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 110 ml | CCOCC | C4H10O
catalyst | allyl bromide | ca. 0.5 g | C(C=C)Br | C3H5Br
solvent | ether | 50 ml | CCOCC | C4H10O
product | 5-(4-fluorophenoxyl)-1-penten-4-ol | 0.095 mole, 18.6 g, 77% | FC1=CC=C(OCC(CC=C)O)C=C1 | C11H13FO2
